US07723330B2
Step D: Preparation of N-(4-(1-(4-methoxybenzyl)-3-(1-(2-fluoroethyl)piperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
Prepared from 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (177 mg, 0.755 mmol, prepared according to the procedure for Example 19, Step C) and 1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-N-(1-(2-fluoroethyl)piperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-3-amine (128 mg, 0.252 mmol) according to the procedure for Example 138, Step D. The product was obtained as a waxy solid (145 mg, 80%). LRMS (APCI+): 100% purity, 220 nm, m/z 725 (M+1) detected.

reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | 1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-N-(1-(2-fluoroethyl)piperidin-4-yl)-1H-pyrazolo[3,4-b]pyridin-3-amine | 0.252 mmol, 128 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)NC3CCN(CC3)CCF)C=C1 | C27H30F2N6O2
product | N-(4-(1-(4-methoxybenzyl)-3-(1-(2-fluoroethyl)piperidin-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 145 mg, 80% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)NC3CCN(CC3)CCF)C=C1 | C38H35F3N8O4
